US07572820B2
1-{[5-(3,5-Difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-3-fluoro-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 23 from 3-fluoro-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole: MS (ES) m/z 437 (M+1).

reactant | 3-fluoro-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC1=C(NC2=CC=C(C(=C12)C(F)(F)F)C#N)C | C11H6F4N2
reactant | 3-(chloromethyl)-5-(3,5-difluorophenyl)-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC(=C1)F)F | C9H5ClF2N2O
product | 1-{[5-(3,5-Difluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-3-fluoro-2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC=1C=C(C=C(C1)F)C1=NC(=NO1)CN1C(=C(C2=C(C(=CC=C12)C#N)C(F)(F)F)F)C | C20H10F6N4O
